US04115568
Methyl 3-(2-aminoanilino)-thiophene-4-carboxylate
Methyl 3-(2-aminoanilino)-2,5-dihydrothiophene-4-carboxylate (2.5 g, 0.001 mol) was added to a flask contining palladium on charcoal catalyst (5%, 200 mg) in cyclohexene (or norbornadiene or norbornylene) (50 ml) and the reaction was heated at reflux with stirring for 4 hours, the reaction being followed by t.l.c.

reactant | Methyl 3-(2-aminoanilino)-2,5-dihydrothiophene-4-carboxylate | 0.001 mol, 2.5 g | NC1=C(NC=2CSCC2C(=O)OC)C=CC=C1 | C12H14N2O2S
reactant | norbornadiene | C12=CC=C(CC1)C2 | C7H8
reactant | norbornylene | C12C=CC(CC1)C2 | C7H10
catalyst | palladium on charcoal | 200 mg | [Pd] | Pd
solvent | cyclohexene | C1=CCCCC1 | C6H10
product | Methyl 3-(2-aminoanilino)-thiophene-4-carboxylate | NC1=C(NC2=CSC=C2C(=O)OC)C=CC=C1 | C12H12N2O2S
